US06716834B2
(i) 3-(4-Chloro-2-methoxyphenylthio)propanoic Acid, Ethyl Ester
4-Chloro-2-methoxythiophenol (5.78 g, 33 mmol), triethylamine (5.0 mL, 36 mmol) and ethyl 3-bromopropanoate (4.6 mL, 36 mmol) were dissolved in ethyl acetate (50 mL) and refluxed for 2 h. Water was added and the liquid phases were separated. The aqueous phase was extracted two times with ethyl acetate. The combined organic fractions were washed with 1 M aq. HCl and then concentrated in vacuo. Purification by flash chromatography (SiO2; heptane: dichloromethane (1:1, 0:1)) afforded the sub-title compound as a yellow solid. Yield: 3.0 g (30%). Estimated purity: 75% (NMR).

reactant | 4-Chloro-2-methoxythiophenol | 33 mmol, 5.78 g | ClC1=CC(=C(C=C1)S)OC | C7H7ClOS
reactant | triethylamine | 36 mmol, 5.0 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl 3-bromopropanoate | 36 mmol, 4.6 mL | BrCCC(=O)OCC | C5H9BrO2
reactant | Water | O | H2O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 3-(4-Chloro-2-methoxyphenylthio)propanoic Acid, Ethyl Ester | ClC1=CC(=C(C=C1)SCCC(=O)OCC)OC | C12H15ClO3S
